US04502994
A solution of 5.50 g (46.57 mmoles) L-threonolactone in 100 mL MeOH, previously saturated with anhydrous NH3 at 0° C., was kept at room temperature for 48 h in a pressure bottle. The solvent was evaporated in vacuo, the residual oil re-evaporated from absolute EtOH, and the resulting solid crystallized from boiling EtOH. The crystals were collected after cooling at 0° C., washed with EtOH-Et2O (1:1 parts by volume), then with Et2O, and dried at 40° C./0.005 mm Hg to give 6.023 g (95.7%) of analytically pure product L-threonamide, m.p. 105°-107° C.

reactant | L-threonolactone | 46.57 mmoles, 5.50 g | C1[C@@H]([C@H](C(=O)O1)O)O | C4H6O4
reactant | NH3 | N | H3N
solvent | MeOH | 100 mL | CO | CH4O
product | L-threonamide | O=C([C@H](O)[C@@H](O)CO)N | C4H9NO4
